US07629375B2
(3-Bromo-4-methoxymethoxy-phenyl)-methanol (250 mg) was dissolved in DCM (20 mL), pyridine (0.15 mL) was added followed by thionyl chloride (0.15 mL), and the mixture was stirred for 1 hour. The mixture was partitioned with water and ethyl acetate. The solvent removal gave 2-bromo-4-chloromethyl-1-methoxymethoxy-benzene as a clear oil, which was used directly in next step. The oil was dissolved in acetone, and sodium iodide (300 mg) was added. The mixture was stirred overnight and a yellow precipitate was formed. Extraction with ethyl acetate and water gave 2-iodo-4-chloromethyl-1-methoxymethoxy-benzene as a brown oil that turned into solid after standing. 1HNMR (CDCl3, 300 MHz): 7.58 (d, J=2.0 Hz, 1H), 7.25 (dd, J=2.0, 8.5 Hz, 1H), 7.07 (d, J=8.5 Hz, 1H), 5.25 (s, 2H), 4.39(s, 2H), 3.51 (s, 3H) ppm. The iodide (170 mg) and trimethylphosphate (0.1 mL) were mixed and stirred at 120° C. for 1 hour. After cooling to room temperature, the reaction mixture was directly applied to silica gel column eluting with 5% MeOH in DCM to yield 150 mg of the corresponding phosphonate.

reactant | (3-Bromo-4-methoxymethoxy-phenyl)-methanol | 250 mg | BrC=1C=C(C=CC1OCOC)CO | C9H11BrO3
reactant | pyridine | 0.15 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.15 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-4-chloromethyl-1-methoxymethoxy-benzene | BrC1=C(C=CC(=C1)CCl)OCOC | C9H10BrClO2
